US07608711B2
6-Chloro-5-(2-chloro-1-hydroxy-ethyl)-1,3-dihydro-indol-2-one. (V)
A reactor is loaded with 200 g (0.82 mol) of 6-chloro-5-(2-chloro-acetyl)-1,3-dihydro-indol-2-one, in 1 L of ethanol. The reaction mixture is added with 15.5 g (0.41 mol) of sodium borohydride in portions, under strong stirring, at room temperature. The temperature is kept at 15-20° C. during the addition, after that the mixture is left under stirring for about 15 h at room temperature. The mixture is then added with 250 ml of glacial acetic acid and refluxed (approx. 85° C.) for 1 hr 30 min, then 200 ml of acetic acid are added and the mixture is refluxed a further 30 min, then cooled to 20° C. The suspension is filtered and washed with ethanol and heptane. The solid product is dried under vacuum at a temperature of 60° C., to obtain 177 g (88% molar yield).

reactant | 6-chloro-5-(2-chloro-acetyl)-1,3-dihydro-indol-2-one | 0.82 mol, 200 g | ClC1=C(C=C2CC(NC2=C1)=O)C(CCl)=O | C10H7Cl2NO2
reactant | sodium borohydride | 0.41 mol, 15.5 g | [BH4-].[Na+]
reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 1 L | C(C)O | C2H6O
product | 6-Chloro-5-(2-chloro-1-hydroxy-ethyl)-1,3-dihydro-indol-2-one | ClC1=C(C=C2CC(NC2=C1)=O)C(CCl)O | C10H9Cl2NO2
